US07977358B2
E] 3,4-Dichloro-N-{3-[3,5-dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-pyrazol-1-yl]-phenyl}-benzamide
A solution of 0.080 g (0.20 mmol) of [1-(3-amino-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone hydrochloride and 0.11 ml (0.79 mmol, 4 eq) of triethylamine in 3 ml of CH2Cl2 was treated at 0° C. with 0.050 g (0.24 mmol, 1.2 eq) of 3,4-dichlorobenzoyl chloride. The reaction was stirred over night at RT, then partitioned three times between EtOAc and aqueous saturated NaHCO3, dried over Na2SO4 and evaporated to give 0.115 g (quant.) of the title compound as light yellow solid. MS: 540.4 (MH+, 2 Cl).

reactant | [1-(3-amino-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone hydrochloride | 0.20 mmol, 0.080 g | Cl.NC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)N1CCC(CC1)N1CCCC1)C
reactant | triethylamine | 0.79 mmol, 0.11 ml, 4 eq | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 0.24 mmol, 0.050 g, 1.2 eq | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-N-{3-[3,5-dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-pyrazol-1-yl]-phenyl}-benzamide | ClC=1C=C(C(=O)NC2=CC(=CC=C2)N2N=C(C(=C2C)C(=O)N2CCC(CC2)N2CCCC2)C)C=CC1Cl | C28H31Cl2N5O2
